US07192943B2
To a solution of tert-butyl (5S)-5-amino-6-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-6-oxohexylcarbamate (1.60 g) and triethylamine (0.47 g) in chloroform (100 ml) was added N-[3-(tert-butoxycarbonylamino)propionyloxy]succinimide (1.34 g). The mixture was stirred at room temperature for 15 hours. The mixture was washed with saturated aqueous sodium hydrogencarbonate solution. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to give a crude product of tert-butyl (5S)-6-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-5-{[3-(tert-butoxycarbonylamino)propionyl]amino}-6-oxohexylcarbamate (2.09 g) as an oil. The crude product was used directly in the next step without further purification.

reactant | tert-butyl (5S)-5-amino-6-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-6-oxohexylcarbamate | 1.60 g | N[C@@H](CCCCNC(OC(C)(C)C)=O)C(=O)NC=1C=NN(C1N)C | C15H28N6O3
reactant | triethylamine | 0.47 g | C(C)N(CC)CC | C6H15N
reactant | N-[3-(tert-butoxycarbonylamino)propionyloxy]succinimide | 1.34 g | C(C)(C)(C)OC(=O)NCCC(=O)ON1C(CCC1=O)=O | C12H18N2O6
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl (5S)-6-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-5-{[3-(tert-butoxycarbonylamino)propionyl]amino}-6-oxohexylcarbamate | 2.09 g | NC1=C(C=NN1C)NC([C@H](CCCCNC(OC(C)(C)C)=O)NC(CCNC(=O)OC(C)(C)C)=O)=O | C23H41N7O6
